** Name: SymmetricalOpAmp72

.MACRO SymmetricalOpAmp72 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=22e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=6e-6 W=30e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=8e-6 W=58e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=191e-6
mDiodeTransistorPmos5 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=60e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=309e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=60e-6
mNormalTransistorNmos8 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=96e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=287e-6
mNormalTransistorNmos10 out inputVoltageBiasXXnXX2 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=8e-6 W=134e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=96e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=6e-6 W=191e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=6e-6 W=30e-6
mNormalTransistorPmos15 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=119e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX2 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=312e-6
mNormalTransistorPmos17 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=119e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp72

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 1.93801 mW
** Area: 10569 (mu_m)^2
** Transit frequency: 12.9151 MHz
** Transit frequency with error factor: 12.9147 MHz
** Slew rate: 12.4952 V/mu_s
** Phase margin: 77.9223°
** CMRR: 107 dB
** negPSRR: 98 dB
** posPSRR: 53 dB
** VoutMax: 4.83001 V
** VoutMin: 0.390001 V
** VcmMax: 4.67001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 93.8471 muA
** NormalTransistorPmos: -95.7449 muA
** DiodeTransistorPmos: -31.2279 muA
** DiodeTransistorPmos: -31.2279 muA
** NormalTransistorNmos: 62.4551 muA
** DiodeTransistorNmos: 62.4561 muA
** NormalTransistorNmos: 31.2271 muA
** NormalTransistorNmos: 31.2271 muA
** NormalTransistorNmos: 62.8081 muA
** NormalTransistorNmos: 62.8071 muA
** NormalTransistorPmos: -62.8089 muA
** DiodeTransistorNmos: 62.8081 muA
** NormalTransistorPmos: -62.8089 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 95.7441 muA
** DiodeTransistorPmos: -93.8479 muA


** Expected Voltages: 
** ibias: 1.11501  V
** in1: 2.5  V
** in2: 2.5  V
** inTransconductanceComplementarySecondStage: 4.26501  V
** innerComplementarySecondStage: 0.588001  V
** inputVoltageBiasXXnXX2: 0.798001  V
** inputVoltageBiasXXpXX0: 4.14401  V
** out: 2.5  V
** outFirstStage: 4.26501  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94301  V
** innerStageBias: 0.183001  V
** inner: 0.556001  V


.END