** Name: SymmetricalOpAmp74

.MACRO SymmetricalOpAmp74 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=8e-6 W=16e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=90e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=71e-6
mDiodeTransistorPmos4 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=89e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=57e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=4e-6 W=95e-6
mNormalTransistorNmos9 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=4e-6 W=96e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=57e-6
mNormalTransistorNmos11 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=143e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=8e-6 W=71e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=14e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=14e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=16e-6
mNormalTransistorPmos16 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
mNormalTransistorPmos17 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=599e-6
mNormalTransistorPmos18 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=26e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp74

** Expected Performance Values: 
** Gain: 51 dB
** Power consumption: 4.09301 mW
** Area: 11640 (mu_m)^2
** Transit frequency: 7.88301 MHz
** Transit frequency with error factor: 7.88285 MHz
** Slew rate: 9.58482 V/mu_s
** Phase margin: 84.7978°
** CMRR: 99 dB
** negPSRR: 94 dB
** posPSRR: 51 dB
** VoutMax: 4.68001 V
** VoutMin: 0.550001 V
** VcmMax: 4.52001 V
** VcmMin: 1.48001 V


** Expected Currents: 
** NormalTransistorNmos: 87.9701 muA
** NormalTransistorPmos: -580.864 muA
** DiodeTransistorPmos: -21.7809 muA
** DiodeTransistorPmos: -21.7809 muA
** NormalTransistorNmos: 43.5611 muA
** DiodeTransistorNmos: 43.5621 muA
** NormalTransistorNmos: 21.7801 muA
** NormalTransistorNmos: 21.7801 muA
** NormalTransistorNmos: 48.0561 muA
** NormalTransistorNmos: 48.0551 muA
** NormalTransistorPmos: -48.0569 muA
** NormalTransistorNmos: 48.0561 muA
** NormalTransistorNmos: 48.0551 muA
** NormalTransistorPmos: -48.0569 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 580.865 muA
** DiodeTransistorPmos: -87.9709 muA


** Expected Voltages: 
** ibias: 1.29201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.960001  V
** inTransconductanceComplementarySecondStage: 4.11601  V
** innerComplementarySecondStage: 0.806001  V
** out: 2.5  V
** outFirstStage: 4.11601  V
** outSourceVoltageBiasXXnXX1: 0.647001  V
** outVoltageBiasXXpXX0: 3.69601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.90501  V
** innerStageBias: 0.401001  V
** inner: 0.401001  V
** inner: 0.643001  V


.END