** Name: SymmetricalOpAmp78

.MACRO SymmetricalOpAmp78 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=3e-6 W=9e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=8e-6 W=124e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=367e-6
mDiodeTransistorPmos4 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=31e-6
mNormalTransistorNmos7 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=83e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=120e-6
mNormalTransistorNmos9 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=8e-6 W=124e-6
mNormalTransistorNmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=83e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=367e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=9e-6
mNormalTransistorPmos13 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=481e-6
mNormalTransistorPmos14 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=481e-6
mNormalTransistorPmos15 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=30e-6
mNormalTransistorPmos16 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=30e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp78

** Expected Performance Values: 
** Gain: 54 dB
** Power consumption: 4.66901 mW
** Area: 5863 (mu_m)^2
** Transit frequency: 36.1381 MHz
** Transit frequency with error factor: 36.1381 MHz
** Slew rate: 38.4919 V/mu_s
** Phase margin: 71.6198°
** CMRR: 97 dB
** negPSRR: 56 dB
** posPSRR: 64 dB
** VoutMax: 4.25 V
** VoutMin: 0.380001 V
** VcmMax: 4.24001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 131.994 muA
** DiodeTransistorPmos: -200.979 muA
** DiodeTransistorPmos: -200.979 muA
** NormalTransistorNmos: 401.959 muA
** DiodeTransistorNmos: 401.96 muA
** NormalTransistorNmos: 200.98 muA
** NormalTransistorNmos: 200.98 muA
** NormalTransistorNmos: 194.946 muA
** NormalTransistorPmos: -194.945 muA
** NormalTransistorPmos: -194.944 muA
** DiodeTransistorNmos: 194.946 muA
** NormalTransistorPmos: -194.945 muA
** NormalTransistorPmos: -194.944 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -131.993 muA


** Expected Voltages: 
** ibias: 1.20501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 0.789001  V
** out: 2.5  V
** outFirstStage: 3.83601  V
** outSourceVoltageBiasXXnXX1: 0.603001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.92601  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V
** inner: 0.601001  V


.END