** Name: SymmetricalOpAmp8

.MACRO SymmetricalOpAmp8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=5e-6 W=5e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=77e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=77e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=18e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=58e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=5e-6 W=13e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=5e-6 W=13e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=71e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=71e-6
mNormalTransistorPmos11 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=44e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=82e-6
mNormalTransistorPmos13 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=57e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=82e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=131e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=58e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp8

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 0.931001 mW
** Area: 2265 (mu_m)^2
** Transit frequency: 6.81401 MHz
** Transit frequency with error factor: 6.81429 MHz
** Slew rate: 6.75084 V/mu_s
** Phase margin: 73.3387°
** CMRR: 150 dB
** negPSRR: 46 dB
** posPSRR: 49 dB
** VoutMax: 4.07001 V
** VoutMin: 0.540001 V
** VcmMax: 3.97001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -24.7889 muA
** DiodeTransistorNmos: 36.9011 muA
** DiodeTransistorNmos: 36.9011 muA
** NormalTransistorPmos: -73.8039 muA
** NormalTransistorPmos: -36.9019 muA
** NormalTransistorPmos: -36.9019 muA
** NormalTransistorNmos: 33.8071 muA
** NormalTransistorNmos: 33.8081 muA
** NormalTransistorPmos: -33.8079 muA
** NormalTransistorPmos: -33.8089 muA
** DiodeTransistorPmos: -33.8099 muA
** DiodeTransistorPmos: -33.8109 muA
** NormalTransistorNmos: 33.8091 muA
** NormalTransistorNmos: 33.8081 muA
** DiodeTransistorNmos: 24.7881 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.13001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.945001  V
** inSourceStageBiasComplementarySecondStage: 4.25501  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 3.25401  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22201  V
** innerStageBias: 4  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END