** Name: SymmetricalOpAmp9

.MACRO SymmetricalOpAmp9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=6e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos4 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=20e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=41e-6
mDiodeTransistorPmos6 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=8e-6 W=61e-6
mNormalTransistorNmos7 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=81e-6
mNormalTransistorNmos8 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=6e-6 W=19e-6
mNormalTransistorNmos9 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=6e-6 W=19e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=21e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=21e-6
mNormalTransistorPmos12 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=4e-6 W=64e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=59e-6
mNormalTransistorPmos14 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=8e-6 W=230e-6
mNormalTransistorPmos15 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=8e-6 W=142e-6
mNormalTransistorPmos16 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=5e-6 W=59e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=78e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=55e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=8e-6 W=41e-6
mNormalTransistorPmos20 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=8e-6 W=41e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp9

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 0.931001 mW
** Area: 6240 (mu_m)^2
** Transit frequency: 3.60201 MHz
** Transit frequency with error factor: 3.60248 MHz
** Slew rate: 4.00005 V/mu_s
** Phase margin: 81.933°
** CMRR: 149 dB
** negPSRR: 48 dB
** posPSRR: 54 dB
** VoutMax: 4.28001 V
** VoutMin: 0.420001 V
** VcmMax: 4.02001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 77.4181 muA
** NormalTransistorPmos: -19.1239 muA
** NormalTransistorPmos: -15.5179 muA
** DiodeTransistorNmos: 6.79401 muA
** DiodeTransistorNmos: 6.79401 muA
** NormalTransistorPmos: -13.5899 muA
** NormalTransistorPmos: -6.79499 muA
** NormalTransistorPmos: -6.79499 muA
** NormalTransistorNmos: 20.0671 muA
** NormalTransistorNmos: 20.0661 muA
** NormalTransistorPmos: -20.0679 muA
** NormalTransistorPmos: -20.0689 muA
** NormalTransistorPmos: -20.4359 muA
** NormalTransistorPmos: -20.4349 muA
** NormalTransistorNmos: 20.4351 muA
** NormalTransistorNmos: 20.4341 muA
** DiodeTransistorNmos: 19.1231 muA
** DiodeTransistorNmos: 15.5171 muA
** DiodeTransistorPmos: -77.4189 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.20201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inOutputTransconductanceComplementarySecondStage: 0.831001  V
** inSourceTransconductanceComplementarySecondStage: 0.556001  V
** innerComplementarySecondStage: 3.96601  V
** out: 2.5  V
** outFirstStage: 0.556001  V
** outVoltageBiasXXnXX0: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.24301  V
** innerStageBias: 4.50101  V
** innerTransconductance: 0.152001  V
** inner: 4.44901  V
** inner: 0.151001  V


.END